US04423213
Vilsmeir reagent was prepared from phosphorus oxychloride (1.28 ml) and N,N-dimethylformamide (1.06 ml) in tetrahydrofuran (35 ml) in a usual manner. To the resultant suspension was added 2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (5 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes to prepare the activated acid solution. This solution was added at a time to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (4.89 g) and trimethylsilylacetamide (9.2 g) in ethyl acetate (40 ml) at -20° C., followed by stirring at -20° to -10° C. for an hour. After water and ethyl acetate were added to the reaction mixture, the separated organic layer was washed with 5% aqueous sodium carbonate and an aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (8.7 g).

reactant | phosphorus oxychloride | 1.28 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C21H17N3O6S
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 4.89 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 9.2 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1.06 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 8.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C43H35N5O8S2
